US08466289B2
Synthesis of the Title Compound; 3-Hydroxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (13A)
3-Benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (180 mg, 0.288 mmol) in DCM (10 mL) was reacted with 1M BCl3 (0.86 mL, 0.864 mmol) at −78° C. The resulting mixture was stirred at room temperature for 1 hour. Purification by column chromatography on silica gel (4% MeOH in DCM), followed by preparative HPLC afforded 45 mg of the product (30% yield).

reactant | 3-Benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 0.288 mmol, 180 mg | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2CC(C2)OCC2=CC=CC=C2 | C25H25FIN3O5S
reactant | BCl3 | 0.864 mmol, 1M, 0.86 mL | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 45 mg, 30% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2CC(C2)O | C18H19FIN3O5S
